US07018988B2
(2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-N-(3-methylphenyl)-2-(4-morpholinylcarbonyl)-1-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, 1-isocyanato-3-methylbenzene, and morpholine the title compound was obtained in 41% purity by LC/MS. MS(ESI+): m/z=467.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(4-methoxybenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC=C(C=C1)OC)C(=O)O | C18H24N2O6
reactant | 1-isocyanato-3-methylbenzene | N(=C=O)C1=CC(=CC=C1)C | C8H7NO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (2S,4EZ)-4-{[(4-methoxybenzyl)oxy]imino}-N-(3-methylphenyl)-2-(4-morpholinylcarbonyl)-1-pyrrolidinecarboxamide | COC1=CC=C(CON=C2C[C@H](N(C2)C(=O)NC2=CC(=CC=C2)C)C(=O)N2CCOCC2)C=C1 | C25H30N4O5
